US04870091
10-phthalimido-3-oxo-5,8-dioxadecanoic acid ethyl ester.
77 g of 2-[2-(phthalimido)ethoxy]ethanol are added, in portions, to a suspension of 31 g of sodium hydride in 400 ml of tetrahydrofuran, while maintaining the temperature in the vicinity of 25° C. The mixture is stirred for one hour and 53.6 g of ethyl chloroacetoacetate are then added, while maintaining the temperature of the mixture at -20° C. The mixture is allowed to stand overnight at ambient temperature and then hydrolyzed with 1 l of 1N hydrochloric acid. Decantation, followed by extraction with ether are carried out and the organic phases are combined. The combined organic phase is washed with water and then dried over magnesium sulfate. It is concentrated and the residue thereby obtained (110 g) is purified by silica column chromatography using a dichloromethane:acetone (95:5) mixture as the eluting solvent.

reactant | 2-[2-(phthalimido)ethoxy]ethanol | 77 g | C1(C=2C(C(N1CCOCCO)=O)=CC=CC2)=O | C12H13NO4
reactant | sodium hydride | 31 g | [H-].[Na+]
reactant | ethyl chloroacetoacetate | 53.6 g | ClCC(CC(=O)OCC)=O | C6H9ClO3
reactant | hydrochloric acid | 1N, 1 l | Cl | ClH
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
product | 10-phthalimido-3-oxo-5,8-dioxadecanoic acid ethyl ester | C(C)OC(CC(COCCOCCN1C(C=2C(C1=O)=CC=CC2)=O)=O)=O | C18H21NO7
